US08377970B2
(Z)-1-cyclopropyl-4,4-difluoro-3-hydroxybut-2-en-1-one
Hexamethyldisilazane (1 g, 6.2 mmol) and diethylether were taken in RBF and cooled to −78° C. under nitrogen atmosphere. n-BuLi (7.7 ml) was added and stirred for 15 mins Cyclopropyl methyl ketone (0.66 ml, 6.8 mmol) was added and stirred at −78° C. for 45 mins. At this stage methyl 2,2-difluoroacetate (1.62 ml, 18.58 mmol) was added and brought the reaction mixture to rt and allowed to stir for overnight. Reaction mixture quenched with water, ether layer separated and aqueous layer was acidified with 1N HCl. Aqueous layer extracted with diethyl ether and ether was dried over anhydrous Na2SO4. Diethyl ether was removed on rotavapour to obtain the title compound (390 mg) which was used in the next step without further purification. 1H-NMR (δ ppm, CDCl3, 400 MHz): 6.08 (s, 1H), 5.95 (t, J 54.2, 1H), 1.84-1.76 (m, 1H), 1.34-1.29 (m, 2H), 1.10-1.03 (m, 2H).

reactant | Hexamethyldisilazane | 6.2 mmol, 1 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-BuLi | 7.7 ml | [Li]CCCC
reactant | Cyclopropyl methyl ketone | 6.8 mmol, 0.66 ml | CC(=O)C1CC1 | C5H8O
reactant | methyl 2,2-difluoroacetate | 18.58 mmol, 1.62 ml | FC(C(=O)OC)F | C3H4F2O2
solvent | diethylether | C(C)OCC | C4H10O
product | (Z)-1-cyclopropyl-4,4-difluoro-3-hydroxybut-2-en-1-one | 390 mg | C1(CC1)C(\C=C(\C(F)F)/O)=O | C7H8F2O2
